US05180741
(RS) 1-hydroxy-5-indanecarbonitrile
The operation is carried out as in preparation 10, starting with 5-cyano-1-indanone (1.93 g), the extracted residue is taken up in 20 ml of hexane, with agitation for one hour. After filtering, the filtrate is dried at 45° C. under reduced pressure and 1.92 g is obtained,

reactant | 5-cyano-1-indanone | 1.93 g | C(#N)C=1C=C2CCC(C2=CC1)=O | C10H7NO
solvent | hexane | 20 ml | CCCCCC | C6H14
product | (RS) 1-hydroxy-5-indanecarbonitrile | OC1CCC2=CC(=CC=C12)C#N | C10H9NO
